US08076359B2
Step 2: 3-Hydroxy-5-[(1E)-3-methoxyprop-1-en-1-yl]benzaldehyde
3-Bromo-5-hydroxybenzaldehyde (1 eq.) from the previous step and 2-[(1E)-3-methoxyprop-1-en-1-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (1 eq.) were combined in DMF (0.05 M). To this solution was then added palladium acetate (10 mol %), triphenylphosphine (20 mol %), and sodium carbonate (2 M aqueous solution, 4 eq.). The resulting suspension was heated at 80° C. and stirred for 16 h. The reaction mixture was quenched with 10% aqueous HCl and extracted with ether. The combined organic extracts were washed with water, saturated aqueous NaHCO3 solution, brine, dried over MgSO4, and concentrated in vacuo. The crude product was purified by flash column chromatography (SiO2, 20%→4.33% EtOAc/Hex) to afford the title compound as a yellow oil.

reactant | 3-Bromo-5-hydroxybenzaldehyde | 1 eq. | BrC=1C=C(C=O)C=C(C1)O | C7H5BrO2
reactant | 2-[(1E)-3-methoxyprop-1-en-1-yl]-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 1 eq. | COC/C=C/B1OC(C(O1)(C)C)(C)C | C10H19BO3
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium carbonate | 2 M, 4 eq. | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 0.05 M | CN(C)C=O | C3H7NO
catalyst | palladium acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-Hydroxy-5-[(1E)-3-methoxyprop-1-en-1-yl]benzaldehyde | OC=1C=C(C=O)C=C(C1)\C=C\COC | C11H12O3
